US07550495B2
Step F. N-Methyl-N-[1-(tetrahydro-2H-pyran-4-ylmethyl)-2-(trifluoromethyl)-1H-benzimidazol-5-yl]acetamide
A solution of N-{3-amino-4-[(tetrahydro-2H-pyran-4-ylmethyl)amino]phenyl}-N-methylacetamide hydrochloride (2.77 g, 10 mmol) in trifluoroacetic acid (60 mL) was heated to reflux for 18 h. After evaporation of the solvent, the residue was dissolved in EtOAc (200 mL), washed with 2N NaOH (2×10 mL) and dried over Na2SO4. The crude product was purified by MPLC using EtOAc on silica gel to give 3.18 g (90%) of a white solid as the title compound. MS (ESI) (M+H)+=356.02.

reactant | N-{3-amino-4-[(tetrahydro-2H-pyran-4-ylmethyl)amino]phenyl}-N-methylacetamide hydrochloride | 10 mmol, 2.77 g | Cl.NC=1C=C(C=CC1NCC1CCOCC1)N(C(C)=O)C
reactant | trifluoroacetic acid | 60 mL | FC(C(=O)O)(F)F | C2HF3O2
product | N-Methyl-N-[1-(tetrahydro-2H-pyran-4-ylmethyl)-2-(trifluoromethyl)-1H-benzimidazol-5-yl]acetamide | 3.18 g, 90% | CN(C(C)=O)C1=CC2=C(N(C(=N2)C(F)(F)F)CC2CCOCC2)C=C1 | C17H20F3N3O2
